US07851157B1
3′,5′-Bis-O-(tert-butyldimethylsilyl)deoxyguanosine (3.0 g, 6.05 mmol) was azeotroped with anhydrous toluene three times and then dissolved in anhydrous dimethylformamide (30 mL), and then sodium hydride (199 mg, 7.86 mmol) was added thereto. The mixture was stirred at 70° C. for 1 hour. Then, the reaction solution was returned to room temperature, and methyl thioisocyanate (1.24 mL, 18.2 mmol) was added thereto. The mixture was stirred at 70° C. for 36 hours. The reaction solution was poured into a 0.5 M ammonium acetate buffer solution (150 mL), and the resulting mixture was extracted with ethyl acetate (200 mL)/0.5 M ammonium acetate buffer solution (150 mL) once and then with ethyl acetate (200 mL)/water (150 mL) twice. The organic layer was evaporated under reduced pressure, and the residue was subjected to NH silica gel column chromatography to remove raw materials with methanol/5% chloroform. The gel was collected and eluted with methanol/80% chloroform 40 times. The eluate was concentrated to give 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylthiocarbamoyldeoxyguanosine (1.65 g, 48%).

reactant | 3′,5′-Bis-O-(tert-butyldimethylsilyl)deoxyguanosine | 6.05 mmol, 3.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(N)=NC12 | C22H41N5O4Si2
reactant | sodium hydride | 7.86 mmol, 199 mg | [H-].[Na+]
reactant | methyl thioisocyanate | 18.2 mmol, 1.24 mL | CSN=C=O | C2H3NOS
reactant | ammonium acetate | 0.5 M, 150 mL | C(C)(=O)[O-].[NH4+]
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylthiocarbamoyldeoxyguanosine | 1.65 g, 48% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(NC(NC)=S)=NC12 | C24H44N6O4SSi2
